US05266700
b) 2-Bromo-3-hydroxyquinoline
6.0 mg (41 mmol) of 3-hydroxyquinoline are dissolved in 50 ml of 10% strength sodium hydroxide solution, giving a yellowish brown color. The reaction mixture is cooled to -5° C. using an ice/common salt mixture. A mixture comprising 6.6 g (2.1 ml, 41 mmol) of bromine dissolved in 50 ml of 10% strength sodium hydroxide solution is added dropwise to this solution over a period of 1 hour. During this the temperature of the reaction solution must never exceed 0° C. After this time, the cooling is removed and the reaction solution is stirred at room temperature for another 3 hours. The reaction solution is then cooled to -10° C. The reaction solution cooled to -10° C. [sic]. The reaction solution is then brought to a pH of 3 with 2N hydrochloric acid, during which the temperature of the reaction solution must never exceed -5° to 0° C. This gives the crude product as a light yellow solid. The crude product is recrystallized from 180 ml of ethyl acetate.

reactant | 3-hydroxyquinoline | 41 mmol, 6.0 mg | OC=1C=NC2=CC=CC=C2C1 | C9H7NO
reactant | bromine | 41 mmol, 2.1 ml, 6.6 g | BrBr | Br2
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-Bromo-3-hydroxyquinoline | BrC1=NC2=CC=CC=C2C=C1O | C9H6BrNO
